US04283341
To a refluxing suspension of copper powder (6.6 g, 0.104 mole) in 320 ml of n-octane was added dropwise in one hour a solution of methyl (±)-3-methyl-1-trichloromethyl-2-butenyl diazomalonate (6.6 g, 0.02 mole, prepared as described above for the ethyl ester) in 30 ml of n-octane. The reaction mixture was heated for 21/2 hours under reflux and then filtered while hot. The n-octane was evaporated from the filtate under vacuum to produce a residue which was dissolved in ethyl acetate. The solution was washed successively with aqueous 1 N hydrochloric acid, aqueous sodium bicarbonate, and aqueous sodium chloride. After drying the solution over magnesium sulfate, the ethyl acetate was removed by evaporation, yielding methyl (±)-4-trichloromethyl-6,6-dimethyl-2-oxo-3-oxabicyclo[3.1.0]hexane-1-carboxylate (5.77 g, 96% yield) as an oil. Trituration of the oil with ether afforded the crystalline lactone; mp, 118°-120°.

reactant | methyl (±)-3-methyl-1-trichloromethyl-2-butenyl diazomalonate | [N+](=[N-])=C(C(=O)OC)C(=O)OC(C=C(C)C)C(Cl)(Cl)Cl | C10H11Cl3N2O4
solvent | n-octane | 320 ml | CCCCCCCC | C8H18
solvent | n-octane | 30 ml | CCCCCCCC | C8H18
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper | 0.104 mole, 6.6 g | [Cu] | Cu
product | methyl (±)-4-trichloromethyl-6,6-dimethyl-2-oxo-3-oxabicyclo[3.1.0]hexane-1-carboxylate | 5.77 g, 96% yield | ClC(C1OC(C2(C(C12)(C)C)C(=O)OC)=O)(Cl)Cl | C10H11Cl3O4
